US03933913
A solution of 17.1 g. (0.1 m.) of benzyl bromide in 100 ml. of dimethylsulfoxide is added slowly to a stirred mixture of 18.2 g. (0.1 m.) of 4-hydroxy-3-nitrophenethylamine in 1 l. of dimethylsulfoxide and 60 ml. of 2N sodium hydroxide at 85°C. After addition is complete the reaction mixture is stirred at 85°C. for an additional two hours, poured into ice-water, saturated with sodium chloride and extracted with ethyl acetate. The organic extract is dried and concentrated to give 4-benzyloxy-3-nitrophenethylamine. The latter (2.72 g., 0.01 m.) in 50 ml. of toluene is rfluxed azeotropically with 1.27 g. (0.012 m.) of benzaldehyde until water formation is completed (about one hour). Solvent is removed by distillation to leave the crude imine. Sodium borohydride (0.38 g., 0.01 m.) is then added to a solution of the above imine in 30 ml. of methanol over a period of 30 minutes and after stirring for an additional hour the reaction mixture is evaporated. The residue is treated with 2N hydrochloric acid and ether. The solid obtained is filtered and washed to give N-benzyl-4-benzyloxy-3-nitrophenethylamine hydrochloride.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-hydroxy-3-nitrophenethylamine | OC1=C(C=C(CCN)C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-benzyloxy-3-nitrophenethylamine | C(C1=CC=CC=C1)OC1=C(C=C(CCN)C=C1)[N+](=O)[O-] | C15H16N2O3
